resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 0.99348
R2 0 n2 1.009418
R3 0 n4 0.986352
R4 n1 n3 0.981919
R5 n1 n5 0.983277
R6 n2 n3 0.990165
R7 n2 n6 0.999494
R8 n3 n7 13.483118
R9 n4 n5 0.987271
R10 n4 n6 1.001468
R11 n5 n7 0.9996
R12 n6 n7 0.984811
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r3[i] @r4[i] @r5[i] @r6[i] @r7[i] @r8[i] @r9[i] @r10[i] @r11[i] @r12[i]
.endc
.end
